US06727264B1
N-(3-{1-[5-(2-IODOPHENYL)-5-OXOPENTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure K and Scheme B1 (K2CO3) using 1-(2-iodophenyl)-5-chloro-1-pentanone and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 533.0 (M+H)+.

reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(2-iodophenyl)-5-chloro-1-pentanone | IC1=C(C=CC=C1)C(CCCCCl)=O | C11H12ClIO
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[5-(2-IODOPHENYL)-5-OXOPENTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | IC1=C(C=CC=C1)C(CCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)=O | C26H33IN2O2
